US05789634
A 5 L flask was equipped as in Example 3.178 g 2-ethyl-7-chloroindene (1 mol %), 1 L ether and 10.8 g Ni(dpp) (0.02 mol, 2 mol %) added, followed by 355 mL of 3.1M phenylmagnesium bromide in either (1.1 mol, 10% excess). After quenching and work-up by the method described in Example 3, 176 g 2-ethyl-7-phenylindene (0.8 mol) was obtained by vacuum distillation at 140° C. in 80% yield.

reactant | 2-ethyl-7-chloroindene | 3.178 g | C(C)C=1CC2=C(C=CC=C2C1)Cl | C11H11Cl
reactant | phenylmagnesium bromide | 3.1M, 355 mL | C1(=CC=CC=C1)[Mg]Br
solvent | ether | 1 L | CCOCC | C4H10O
product | 2-ethyl-7-phenylindene | 0.8 mol, 176 g, 80% yield | C(C)C=1CC2=C(C=CC=C2C1)C1=CC=CC=C1 | C17H16
